US08497264B2
In a 250-mL flask, Lawesson's reagent (0.577 g, 1.427 mmol) and (S)-2′-bromo-4′-fluoro-7′-methoxyspiro[morpholine-3,9′-xanthen]-5-one (0.978 g, 2.481 mmol) were suspended in toluene (25 mL). An air-cooled condenser was attached, and the flask was heated in a 90° C. oil bath for 3 h. The mixture was then cooled and concentrated to give (S)-2′-bromo-4′-fluoro-7′-methoxyspiro[morpholine-3,9′-xanthene]-5-thione which was used in the next step without further purification.

reactant | Lawesson's reagent | 1.427 mmol, 0.577 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | (S)-2′-bromo-4′-fluoro-7′-methoxyspiro[morpholine-3,9′-xanthen]-5-one | 2.481 mmol, 0.978 g | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C(=C1)F)OC)NC(COC3)=O | C17H13BrFNO4
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2′-bromo-4′-fluoro-7′-methoxyspiro[morpholine-3,9′-xanthene]-5-thione | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C(=C1)F)OC)NC(COC3)=S | C17H13BrFNO3S
